US03956307
2. 2-(Methoxycarbonylamino)-benzimidazole-1-carboximidic acid phenyl ester.
To a suspension of 420.6 g (2.2 mole) 2-(methoxycarbonylamino)-benzimidazole in 10 ltr chloroform a solution of 274 g (2.3 moles) phenyl cyanate in 2 ltr chloroform is added in drops while stirring at 20°C. The reaction mixture is stirred for 6 hours at room temperature and then left standing overnight. The product is then filtered and the solvent removed under vacuum. The colorless, crystalline residue is treated with ether.

reactant | 2-(methoxycarbonylamino)-benzimidazole | 2.2 mole, 420.6 g | COC(=O)NC=1NC2=C(N1)C=CC=C2 | C9H9N3O2
reactant | phenyl cyanate | 2.3 moles, 274 g | C1(=CC=CC=C1)OC#N | C7H5NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(Methoxycarbonylamino)-benzimidazole-1-carboximidic acid phenyl ester | C1(=CC=CC=C1)OC(=N)N1C(=NC2=C1C=CC=C2)NC(=O)OC | C16H14N4O3
